US04772600
4-[[[2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]amino]butanoic acid ethyl ester
A solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (8.0 g, 0.028 mole), 1,1'-carbonyldiimidazole (4.5 g, 0.028 mole), and anhydrous tetrahydrofuran (100 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 3 hours. The nitrogen flow was stopped and triethylamine (6.3 g, 0.062 mole) and ethyl 4-aminobutyrate hydrochloride (5.2 g, 0.031 mole) were added all at once. The reaction mixture was stirred under nitrogen over the weekend. The tetrahydrofuran was evaporated and the solid residue triturated in water (100 ml) and filtered off to give 4.7 g (42%) of cake. A 2.3-g portion of the filter cake was recrystallized from isopropyl ether-ethanol to give 1.9 g of white solid, mp 127°-129° C.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.028 mole, 8.0 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.028 mole, 4.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 0.062 mole, 6.3 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-aminobutyrate hydrochloride | 0.031 mole, 5.2 g | Cl.NCCCC(=O)OCC
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-[[[2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]amino]butanoic acid ethyl ester | 1.9 g | C(C)OC(CCCNC(CN1C(=NC=2C1=NC=CC2)C2=CC(=CC=C2)Cl)=O)=O | C20H21ClN4O3
